US04530800
2-Methyl-2-((3-perylenylmethyl)amino)-1,3-propanediol hydrochloride
To a 1 L Erlenmeyer flask was added 3-perylenecarbaldehyde (14.01 g, 50 mmol), 2-methyl-2-amino-1,3-propanediol (Aldrich, 5.52 g, 52.5 mmol), p-toluenesulfonic acid.H2O (Eastman Kodak Co., Rochester, NY, 14650, 0.1 g, 0.5 mmol), and PhCH3 (300 mL). The mixture was warmed to reflux for a few minutes and H2O (2-3 mL) was driven off. The resulting orange-brown colored solution was allowed to cool to RT, diluted with absolute EtOH (300 mL) and stirred overnight. NaBH3CN (Aldrich, 95%, 1.57 g, 25 mmol) was added to the reaction. After the NaBH3CN dissolved, an indicator (bromocresol green, Eastman, 5 mg) was added. To the resulting dark blue solution was added 5 drops of 1M solution of HCl gas in absolute EtOH every 15 minutes. After 3 days the indicator turned dark green then orange and voluminous brown precipitate was present in the flask. To the flask was then added HCl gas (10 mL) in absolute EtOH. The reaction was diluted to 4 L with Et2O and stirred for 1 h. The precipitate was then collected by filtration through a medium porosity glass fritted funnel and pressed dry. The dark brown filter cake was washed thoroughly with 20% HCl (2×250 mL), pressed dry and then washed with CH2Cl2 (2×500 mL), pressed and sucked dry. The solid was recrystallized 3×from CH3OH/Et2O. After filtration, drying at 50°, 6.36 g (31%) of 2-methyl-2-((3-perylenylmethyl)amino)-1,3-propanediol hydrochloride mp 231°-232° (dec), (C,H,Cl,N).

reactant | 3-perylenecarbaldehyde | 50 mmol, 14.01 g | C1=CC(=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)C=O | C21H12O
reactant | 2-methyl-2-amino-1,3-propanediol | 52.5 mmol, 5.52 g | CC(CO)(CO)N | C4H11NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH3CN | 25 mmol, 1.57 g | [BH3-]C#N.[Na+]
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | HCl | Cl | ClH
reactant | HCl | 10 mL | Cl | ClH
solvent | EtOH | 300 mL | CCO | C2H6O
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | 2-3 mL | O | H2O
solvent | PhCH3 | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 0.5 mmol, 0.1 g | O | H2O
product | 2-Methyl-2-((3-perylenylmethyl)amino)-1,3-propanediol hydrochloride | Cl.CC(CO)(CO)NCC=1C=CC=2C=3C=CC=C4C=CC=C(C5=CC=CC1C52)C43 | InChI=1S/C25H23NO2.ClH/c1-25(14-27,15-28)26-13-17-11-12-22-20-9-3-6-16-5-2-8-19(23(16)20)21-10-4-7-18(17)24(21)22;/h2-12,26-28H,13-15H2,1H3;1H
